US05552307
Dioscorea deltoides (Mexican yam) cells (about 300-400 mg. fresh weight per flask) were grown in the dark in suspension in a growth medium, as described by Murashige and Skook (Physiol. Plantarum 1962 15: 473), containing 0.1 mg./l. 2,4-dichlorophenoxyacetic acid, 1 mg./l. nicotinic acid, 10 mg./l. thiamine-HCl, 1 mg./l. pyridoxine-HCl and 100 mg./l. inositol, in 125 ml. Erlenmeyer flasks on a rotary shaker (100 rpm, 28° C.). The volume of growth medium per flask was 30 ml., which contained about 10-20 mg. fine mesh carborundum and about 10 mg. sodium orthovanadate. An approximately equimolar amount of sodium metavanadate could be used instead of the orthovanadate. Comparative runs were carried out with and without addition to the medium of elicitor in the form of oxidized BSA (20 μg./ml.). After about 3 weeks, the cells were harvested, lyophilized, refluxed for 2 hours in 2N HCl, filtered, washed with water and dried. The cells were then extracted with chloroform at 60° C., the extract was filtered and evaporated to dryness, and the residue was taken up in chloroform and chromatographed. The spots were visualized with antimony chloride in chloroform. The spots were then dissolved in chloroform and the O.D. read in a spectrophotometer. Some determinations were made by GLC. In absence of elicitor there were obtained 0.1% (dry weight) diosgenin, compared with 3.8% (dry weight) in presence of elicitor, the latter representing a 38 fold enhancement of yield. The dry weight of cells at the end of the run was 1.6 g. per flask.

reactant | 2,4-dichlorophenoxyacetic acid | ClC1=C(OCC(=O)O)C=CC(=C1)Cl | C8H6Cl2O3
reactant | nicotinic acid | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | thiamine HCl | CC1=C(SC=[N+]1CC=2C=NC(=NC2N)C)CCO.Cl
reactant | pyridoxine HCl | CC1=C(C(=C(C=N1)CO)CO)O.Cl
reactant | inositol | [C@@H]1([C@@H]([C@@H]([C@@H]([C@H]([C@@H]1O)O)O)O)O)O | C6H12O6
reactant | carborundum | [C-]#[Si+] | CSi
solvent | HCl | 2N | Cl | ClH
catalyst | sodium orthovanadate | [O-][V](=O)([O-])[O-].[Na+].[Na+].[Na+]
catalyst | sodium metavanadate | [O-][V](=O)=O.[Na+]
catalyst | orthovanadate | O[V](=O)(O)O
product | diosgenin | 0.1% | C[C@@H]1CC[C@@]2([C@H]([C@H]3[C@@H](O2)C[C@@H]4[C@@]3(CC[C@H]5[C@H]4CC=C6[C@@]5(CC[C@@H](C6)O)C)C)C)OC1 | C27H42O3
